US08445509B2
Production of benzyl {4-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate
To a solution of benzyl (4-hydroxyphenyl)carbamate (1.44 g, 5.91 mmol) in N,N-dimethylformamide (10 mL) were added cesium carbonate (2.41 g, 7.39 mmol) and 5-bromo-2-nitropyridine (1.0 g, 4.93 mmol), and the mixture was stirred at room temperature for 16 hr. Water (40 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran (=2/1, 120 mL). The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (NH silica gel, hexane/ethyl acetate=3/1→1/3) to give the title compound (1.01 g, 56%).

reactant | benzyl (4-hydroxyphenyl)carbamate | 5.91 mmol, 1.44 g | OC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C14H13NO3
reactant | cesium carbonate | 7.39 mmol, 2.41 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-2-nitropyridine | 4.93 mmol, 1.0 g | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | Water | 40 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | benzyl {4-[(6-nitropyridin-3-yl)oxy]phenyl}carbamate | 1.01 g, 56% | [N+](=O)([O-])C1=CC=C(C=N1)OC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C19H15N3O5
